US04003927
A mixture of 3-(2,3-dichloro-4-methoxybenzoyl)-propionic acid (125 g.), 0.45 mole), amalgamated zinc (500 g.) and 12 N HCl (600 ml.) is stirred at 20°-25° C. for two hours and then refluxed for 16 hours. An additional 100 ml. of 12 N HCl is added and refluxing is continued for five hours. The mixture then is cooled and diluted with water (2 l.). The product is extracted with chloroform. The extract is washed with water and dried over sodium sulfate and evaporated. The residue is crystallized from ethanol-water (1:1) to obtain 4-(2,3-dichloro-4-methoxyphenyl)butyric acid (103.7 g.), melting point 120°-123° C.

reactant | 3-(2,3-dichloro-4-methoxybenzoyl)-propionic acid | 125 g | ClC1=C(C(=O)CCC(=O)O)C=CC(=C1Cl)OC | C11H10Cl2O4
reactant | HCl | 12 N, 600 ml | Cl | ClH
reactant | HCl | 12 N | Cl | ClH
solvent | water | 2 l | O | H2O
catalyst | zinc | 500 g | [Zn] | Zn
product | 4-(2,3-dichloro-4-methoxyphenyl)butyric acid | 103.7 g | ClC1=C(C=CC(=C1Cl)OC)CCCC(=O)O | C11H12Cl2O3
